* C:\PP\Dydaktyka\MATERIALY\TC_MATERIALY\Microprocessor-system-examples-2022-23\FT\spice\timer555.asc
XU1 0 N001 OUT 5V N002 N001 N003 5V NE555
Cv N002 0 1µF
R1 OUT N001 68kOhm
C1 N001 0 {C}
V1 5V 0 5V
.tran 0 100m 1m
* https://www.electronics-tutorials.ws/waveforms/555_oscillator.html
* https://www.ti.com/lit/ds/symlink/ne555.pdf
.param f = 1000
.param C = 0.01e-6
.param R = {2/(3*f*C)}
.lib NE555.sub
.backanno
.end
